US03957580
To a slurry of 46 g of the wet immobilized cells of Example 6 in 500 ml water at pH 8.0 and 37°C is added 5 g of potassium penicillin G. The pH of the slurry is maintained at 8.0 by the monitored addition of 1N NaOH, and the hydrolysis is complete after about 3 hours. The immobilized cells are filtered, washed with water and stored as a wet cake until further use. The filtrate is adjusted to pH 2 with 2N HCl and extracted with ethyl acetate. The resulting aqueous layer is adjusted to pH 4.3 with 2N NaOH, concentrated and cooled to give crystalline 6-amino-penicillanic acid.

reactant | potassium penicillin G | 5 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)[O-])C.[K+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 6-amino-penicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
